data/mechanism_extracts/NatCommun/10.1038_s41467-022-31453-7.json
{"doi": "10.1038_s41467-022-31453-7", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electrochemical oxidative NHC organocatalysis of enals/aldehydes via iodide-mediated single-electron-transfer oxidation of the Breslow intermediate, enabling α-, β-, γ-, δ- and carbonyl-carbon functionalizations (cyclization, benzannulation, DKR).", "mechanism_family": ["radical_anodic", "mediator_anodic", "carbene", "paired_electrolysis", "direct_SET"], "electrochemical_role": "Anode performs two SET events: (A) one-electron oxidation of the Breslow intermediate I to the NHC-bound ketyl radical cation II, and (B) one-electron oxidation of iodide to iodine radical; radical-radical coupling near the anode then forms an α-iodo intermediate III which loses I- to give the acyl azolium IV.", "key_intermediates": [{"name": "Breslow intermediate I (NHC-bound enol from aldehyde + NHC)", "smiles": null, "role": "reactive"}, {"name": "NHC-attached ketyl radical cation II (radical intermediate after anodic SET)", "smiles": null, "role": "reactive"}, {"name": "Iodine radical (I•) generated at anode", "smiles": "[I]", "role": "transient"}, {"name": "α-Iodo NHC adduct III from radical-radical coupling", "smiles": null, "role": "transient"}, {"name": "Acyl azolium intermediate IV (after I- elimination)", "smiles": null, "role": "reactive"}, {"name": "Iodide ion (I-) regenerated mediator", "smiles": "[I-]", "role": "resting_state"}, {"name": "Iodinated NHC adduct D/E (poisoned catalyst, off-cycle)", "smiles": null, "role": "off_pathway"}], "electron_flow": "NHC adds to aldehyde to give Breslow intermediate I, which is anodically oxidized (event A) to the NHC ketyl radical cation II; concurrently iodide is anodically oxidized (event B) to I•. The two radicals couple at the anode surface to give III, which eliminates iodide to give acyl azolium IV; IV is then trapped by the nucleophilic partner (hydrazone, 1,3-dicarbonyl, ketimine, etc.) to deliver the chiral product and regenerate NHC.", "rate_determining_step": "Anodic SET oxidation of the Breslow intermediate to the ketyl radical cation II is implicated as the key (and likely turnover-limiting) electrochemical step; direct oxidation of enal without NHC requires >2 V vs SCE while Breslow intermediate is oxidized below -1.0 V.", "probe_reagents": [{"name": "cis-2-phenylcyclopropane-1-carbaldehyde (radical clock, cis-20)", "smiles": "O=C[C@H]1C[C@@H]1c1ccccc1", "purpose": "radical_clock", "observation": "Under electrochemical NHC/I- conditions gave ring-opened/isomerized trans-21 (15%), consistent with a radical intermediate; under chemical DQ oxidation only non-isomerized cis-21 was obtained (92%), indicating a two-electron pathway in DQ chemistry vs SET pathway electrochemically."}, {"name": "I2 (stoichiometric chemical oxidant test)", "smiles": "II", "purpose": "intermediate_trap", "observation": "50 mol% I2 fully suppressed the [4+2] annulation (0% 3a); 10 mol% I2 added to standard reaction gave 53% yield, showing I2 poisons NHC catalyst by forming iodinated adducts D/E."}, {"name": "Iodinated NHC adducts D and E (isolated poisoned catalysts)", "smiles": null, "purpose": "intermediate_trap_other", "observation": "Isolated in 48% (D) and 52% (E); when used as catalysts under standard conditions gave 0% product, confirming they are catalytically inert off-pathway species."}, {"name": "Control without NHC (γ-iodination test)", "smiles": null, "purpose": "other", "observation": "No γ-iodinated enal 19 formed (0%), excluding an enal γ-iodination pathway."}, {"name": "α-epimerization control on cis-20", "smiles": null, "purpose": "other", "observation": "cis-20 subjected to basic standard conditions showed no trans-20, ruling out α-racemization as the source of isomerization."}, {"name": "Cyclic voltammetry of 1a, NHC A, DBU, TBAI", "smiles": null, "purpose": "redox_probe", "observation": "Breslow intermediate oxidation potential <-1.0 V vs SCE (vs >2 V for free enal); mixing Breslow intermediate with TBAI causes disappearance of I-/I2 redox waves and irreversible coupling features, supporting radical-radical coupling between I• and ketyl radical II."}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate", "stoichiometric_intermediate", "crossover"], "evidence_strength": "strong", "notes": "Authors explicitly contrast their SET radical-coupling mechanism with the conventional two-electron (DET) oxidative NHC catalysis using DQ; the radical clock gives different products between the two regimes. An alternative γ-iodination/SN2-like pathway was considered but excluded by the no-NHC control. Iodide functions as a redox mediator that is normally a catalyst poison; the non-uniform concentration of the electrolysis system (high local [NHC] at electrode) is invoked to explain why radical coupling outcompetes catalyst iodination."}
